US04673676
A mixture of 1-amino-4-methyl-7-nitroisoquinoline (3.87 g), diethyl ethoxymethylenemalonate (4.53 g) in N,N-dimethylformamide (20 ml) was heated at 120° C. with stirring for 4 hours. Additional diethyl ethoxymethylenemalonate (1 g) was added to the mixture, and then the reaction mixture was refluxed for 18 hours and cooled to give precipitate. The crystals obtained were filtered off and washed with cold ethanol to give ethyl 7-methyl-10-nitro-4-oxo-4H-pyrimido[2,1-a]isoquinoline-3-carboxylate (4.21 g).

reactant | 1-amino-4-methyl-7-nitroisoquinoline | 3.87 g | NC1=NC=C(C2=CC=C(C=C12)[N+](=O)[O-])C | C10H9N3O2
reactant | diethyl ethoxymethylenemalonate | 4.53 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | diethyl ethoxymethylenemalonate | 1 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | ethyl 7-methyl-10-nitro-4-oxo-4H-pyrimido[2,1-a]isoquinoline-3-carboxylate | 4.21 g | CC1=CN2C(C3=CC(=CC=C13)[N+](=O)[O-])=NC=C(C2=O)C(=O)OCC | C16H13N3O5
